US06140333
(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid
To a suspension of 20 mg of nitrosonium tetrafluoroborate in 0.5 ml of 70% hydrogen fluoride-pyridine, a solution of 34 mg of (2R,5R)-2-(t-butyl)-5-((1R)-3-hydroxyiminocyclopentyl)-5-phenyl-1,3-dioxolan-4-one in 0.5 ml of dichloromethane was added under cooling with ice, followed by stirring for 10 minutes at 0° C. and for 5 hours at room temperature. Water was added to the reaction mixture under cooling with ice, and extraction was carried out with ethyl acetate. After sequential washing with a saturated aqueous solution of sodium hydrogencarbonate and brine, the organic layer was dried over anhydrous magnesium sulfate. Distilling the solvent off under reduced pressure gave 35 mg of the title compound.

reactant | nitrosonium tetrafluoroborate | 20 mg | F[B-](F)(F)F.N#[O+]
reactant | (2R,5R)-2-(t-butyl)-5-((1R)-3-hydroxyiminocyclopentyl)-5-phenyl-1,3-dioxolan-4-one | 34 mg | C(C)(C)(C)[C@@H]1O[C@@](C(O1)=O)(C1=CC=CC=C1)[C@H]1CC(CC1)=NO | C18H23NO4
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrogen fluoride-pyridine | 0.5 ml | N1=CC=CC=C1.F
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | (2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid | 35 mg | FC1(C[C@@H](CC1)[C@](C(=O)O)(C1=CC=CC=C1)O)F | C13H14F2O3
